US05760032
Ethyl 9-((3,4-dichlorobenzoylamino)methyl)-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine-6-acetate (0.4 g) was dissolved in methanol (4 ml). 2N Sodium hydroxide (1 ml) was added and the mixture was stirred. The solvent was evaporated. Water was added and the mixture was washed with ethyl acetate. Citric acid was added to the aqueous layer to make the layer acidic. The solution was extracted with ethyl acetate and the extract was dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from a mixed solvent of diisopropyl alcohol and methanol to give 0.17 g of 9-((3,4-dichlorobenzoylamino)methyl)-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]-diazepine-6-acetic acid isopropyl alcoholate.

reactant | Ethyl 9-((3,4-dichlorobenzoylamino)methyl)-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine-6-acetate | 0.4 g | ClC=1C=C(C(=O)NCC2=NN=C3N2C2=C(C(=NC3CC(=O)OCC)C3=C(C=CC=C3)Cl)C=C(S2)CC)C=CC1Cl | C28H24Cl3N5O3S
reactant | Sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 9-((3,4-dichlorobenzoylamino)methyl)-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]-diazepine-6-acetic acid isopropyl alcoholate | 0.17 g | C(C)(C)[O-].ClC=1C=C(C(=O)NCC2=NN=C3N2C2=C(C(=NC3CC(=O)O)C3=C(C=CC=C3)Cl)C=C(S2)CC)C=CC1Cl | InChI=1S/C26H20Cl3N5O3S.C3H7O/c1-2-14-10-16-23(15-5-3-4-6-17(15)27)31-20(11-22(35)36)24-33-32-21(34(24)26(16)38-14)12-30-25(37)13-7-8-18(28)19(29)9-13;1-3(2)4/h3-10,20H,2,11-12H2,1H3,(H,30,37)(H,35,36);3H,1-2H3/q;-1
